US05994378
Trifluoroacetic acid (10 ml) was added to a mixture of 4-tert-butyl-2-{5-[(3-cyano-5-benzyloxyindol-1-yl)methyl]benzofuran-2-yl}thiazole (0.54 g), m-cresol (0.28 ml), thioanisole (0.28 ml) and ethanedithiol (0.56 ml) under ice-cooling. After being stirred for 4 hours, the mixture was poured into water (100 ml) and the resulting mixture was neutralized with aqueous sodium hydrogen carbonate solution and extracted with ethyl acetate. The organic layer was washed with water, brine successively, dried over magnesium sulfate and concentrated under reduced pressure. The resulting residue was subjected to column chromatography on silica gel and eluted with a mixture of toluene and ethyl acetate. The fractions containing the objective compound were combined and concentrated under reduced pressure to give 4-tert-butyl-2-{5-[(3-cyano-5-hydroxyindol-1-yl)methyl]benzofuran-2-yl}thiazole (305 mg).

reactant | Trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 4-tert-butyl-2-{5-[(3-cyano-5-benzyloxyindol-1-yl)methyl]benzofuran-2-yl}thiazole | 0.54 g | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)CN2C=C(C1=CC(=CC=C21)OCC2=CC=CC=C2)C#N | C32H27N3O2S
reactant | m-cresol | 0.28 ml | C1=C(C=CC=C1O)C | C7H8O
reactant | thioanisole | 0.28 ml | C1(=CC=CC=C1)SC | C7H8S
reactant | ethanedithiol | 0.56 ml | C(C)(S)S | C2H6S2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | water | 100 ml | O | H2O
product | 4-tert-butyl-2-{5-[(3-cyano-5-hydroxyindol-1-yl)methyl]benzofuran-2-yl}thiazole | 305 mg | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)CN2C=C(C1=CC(=CC=C21)O)C#N | C25H21N3O2S
